US05047555
1.0 g of 4-benzyloxy-3,5-dimethylaniline and 30 ml of nonanoic acid are stirred at 150° C. for 3 hours. To the reaction mixture is added 100 ml of ether, and the mixture is washed with an aqueous 10 % sodium hydroxide and water, and dried followed by evaporation of the solvent. The residue is purified by silica gel column chromatography [Solvent:chloroform-ethanol (10:1)], and from the eluate is obtained 260 mg of N-(4-benzyloxy-3,5-dimethylphenyl)nonaneamide as an oily product.

reactant | 4-benzyloxy-3,5-dimethylaniline | 1.0 g | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1C)C | C15H17NO
reactant | nonanoic acid | 30 ml | C(CCCCCCCC)(=O)O | C9H18O2
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(4-benzyloxy-3,5-dimethylphenyl)nonaneamide | 260 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1C)NC(CCCCCCCC)=O)C | C24H33NO2
